Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Falling and  altered mental status 
 
Major Surgical or Invasive Procedure:
NON

 
History of Present Illness:
Ms. ___ is a ___ right-handed woman with  history of
mild intellectual disability and previously refractory 
multifocal
epilepsy since childhood, presenting with change in her baseline
mental status and episodes of falling in the setting of a
potential AED toxicity vs recurrence of her seizures. 

For the last ___ months according to friend/care giver and
patient, that she has been falling frequently recently, with
unsteady gait, and loss of balance. Particularly, she has been
falling
sideways towards the right when walking. On occasions with
sitting from a chair she will slouch over to the front or to the
right side and she will even slide off her chair when seated.
Some of the event are described like "she drops her head 
forward.

  Since ___ the patient has had about 3 falls once on her way
to the bathroom, another when she is trying to reach for her
pocket book, and once at her group program when she was trying 
to
reaching for something in front of her. In the latter, she hit
the front of her head and got a scar on the left forehead that
was required stitches in the hospital. She reports that these
falls happen randomly and does not feel lightheaded before. She
denies losing consciousness during these episodes. Since ___
she went to the hospital ___nd was 
admitted
twice at ___. During this time, they 
found
no evidence of seizure activity on EEG monitoring and she was
discharged home.  Friend reports her symptoms fluctuate, where
some days she is fine while at other days they are more
prominent. 

According to the friend accompanying her today and chart review,
a similar episode of gait impairment, slouching and falls
happened in ___. Back then patient has episodes of dropping her
self to the ground, leans over to one side, and worsening gait.
At that time this was noted to happen when she was unhappy or
upset in a situation. She was having a lot of issues with her
family at the time and has since stopped interacting with them.
The friend reports that recently at the group home during the 
day
she started having symptoms, was collapsing and drooping over in
the chair. After learning that she would get to go home where 
she
would get to see her boyfriend that day, she was acting fine 
with
normal gait and alertness but then she became very lethargic and
started falling again as soon as her boyfriend was gone.
Caretaker also notes recent episode of going on a recent field
trip to ___ with her Mentor house and had no difficulty
with her gait for the entire day. Per mentor, this was the best
she has seen her in a long time. Patient says "I was happy." 

She saw Dr. ___ and he thought patient has
deteriorated significantly since her last visit interns of her
level of alertness, her balance, and gait stability. He also
noted asterixis and nystagmus on his exam. 

Regrading Seizure history :
She has not had any obvious seizures since ___, which
would be the longest period of seizure freedom in her life.
 Seizures began at age ___ after  after a reported head injury 
injury with a baseball bat to the left frontal region. 
Seizure semiology: ( based on history and chart review )
1- The patient describes having episodes of staring out of space
for ___ minutes, 
2-Drop attacks/atonic.  She has had several  falls and head
injuries with these seizures  for which she worn a helmet for
many years, and estimates to have stopped using this about ___
years ago. 
3- Complex partial seizures - right arm numbness  which can 
secondary generalize to a GTC seizures- has not had a GTC since
childhood per report.

There is also history of  catamanial  seizures and they can be
easily provoked by emotional distress. 

 VNS  placed in ___ for the first time, reimplanted in ___
without significant improvement on it. 
She has been on multiple AEDs for years without any 
modifications
since at least ___, and takes her medications religiously with
the help of her caretaker. 

On neurologic review of systems today, the patient denies
headache, lightheadedness, or confusion. Denies difficulty with
producing or comprehending speech. Denies loss of vision, 
blurred
vision, diplopia, vertigo, tinnitus, hearing difficulty,
dysarthria, or dysphagia. Denies focal muscle weakness, 
numbness,
parasthesia. Denies loss of sensation. Denies bowel or bladder
incontinence or retention. 

On general review of systems, the patient denies fevers, rigors,
night sweats, or noticeable weight loss. Denies chest pain,
palpitations, dyspnea, or cough. Denies nausea, vomiting,
diarrhea, constipation, or abdominal pain. No recent change in
bowel or bladder habits. Denies dysuria or hematuria. Denies
myalgias, arthralgias, or rash.  

 
Past Medical History:
Seizure disorder since age ___. Treated with VNS, and medications
below. Last seizure is ___. 
Depression. Sees a psychiatrist every 3 months and a therapist
once per week. 
Mild mental retardation 
 
Social History:
___
Family History:
Mental health issues. No seizures. 
 
Physical Exam:
Admission Exam:
General: NAD  
HEENT: NCAT, no oropharyngeal lesions, neck supple  
___: RRR, no M/R/G  
Pulmonary: CTAB, no crackles or wheezes  
Abdomen: Soft, NT, ND
Extremities: Warm, no edema  

Neurologic Examination:  
Awake, alert, oriented to hospital, ___, and ___ but not
to day, month or specific hospital. Limited ability to relate
history. Able to do DOWB very slowly. Speech is slow but not
aphasic without paraphasic errors . Naming intact. No
paraphasias. No dysarthria. Registration ___ and ___ recall. 
Able
to follow both midline and appendicular commands. 

- Cranial Nerves - PERRL 4->2 brisk. VF full to number counting.
Baseline strabismus and Lt eyelid droop. EOMI, with bilateral 
end
gaze nystagmus. V1-V3 without deficits to light touch
bilaterally. slight facial asymmetry. Hearing intact to finger
rub bilaterally. Palate elevation symmetric. SCM/Trapezius
strength ___ bilaterally. Tongue midline.  

- Motor - Normal bulk and tone. No drift. No mild asterixis. 
   [Delt] [Bic] [Tri] [ECR] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5    5     5     5     5    
 R   5     5     5     5     5    5     5     5     5    

- Sensory - No deficits to light touch, pin, or proprioception
bilaterally. No extinction to DSS. 

-DTRs:  
[Bic] [Tri] [___] [Quad] 
     L  2+    2+     2+      1+      
     R  2+    2+     2+      1+         

Plantar response flexor bilaterally.  

- Coordination - No dysmetria with finger to nose testing
bilaterally but slowness in movement.   
 - Gait - Deferred
Discharge Exam:

General: NAD  
HEENT: NCAT, no oropharyngeal lesions, neck supple  
___: RRR, no M/R/G  
Pulmonary: CTAB, no crackles or wheezes  
Abdomen: Soft, NT, ND
Extremities: Warm, no edema  

Neurologic Examination:  
Awake, alert, oriented to hospital, ___, and ___ but not
to day, month or specific hospital. Limited ability to relate
history. Able to do DOWB very slowly. Speech is slow but not
aphasic without paraphasic errors . Naming intact. No
paraphasias. No dysarthria. Registration ___ and ___ recall. 
Able
to follow both midline and appendicular commands. 

- Cranial Nerves - PERRL 4->2 brisk. VF full to number counting.
Baseline strabismus and Lt eyelid droop. EOMI, with bilateral 
end
gaze nystagmus which has improved compared to admission . V1-V3 
without deficits to light touch
bilaterally. slight facial asymmetry. Hearing intact to finger
rub bilaterally. Palate elevation symmetric. SCM/Trapezius
strength ___ bilaterally. Tongue midline.  

- Motor - Normal bulk and tone. No drift. No mild asterixis. 
   [Delt] [Bic] [Tri] [ECR] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5    5     5     5     5    
 R   5     5     5     5     5    5     5     5     5    

- Sensory - No deficits to light touch, pin, or proprioception
bilaterally. No extinction to DSS. 

-DTRs:  
[Bic] [Tri] [___] [Quad] 
     L  2+    2+     2+      1+      
     R  2+    2+     2+      1+         

Plantar response flexor bilaterally.  

- Coordination - No dysmetria with finger to nose testing
bilaterally but slowness in movement.   
 - Gait - able to walk independently, seems to lose balance 
occasionally but is able to compensate immediately which is her 
baseline. 

 
Pertinent Results:
___ 05:10AM BLOOD WBC-4.4 RBC-3.90 Hgb-12.2 Hct-38.0 MCV-97 
MCH-31.3 MCHC-32.1 RDW-14.6 RDWSD-52.5* Plt ___
___ 05:10AM BLOOD WBC-4.3 RBC-3.65* Hgb-11.4 Hct-35.6 
MCV-98 MCH-31.2 MCHC-32.0 RDW-14.7 RDWSD-53.0* Plt ___
___ 05:10AM BLOOD Glucose-81 UreaN-13 Creat-0.6 Na-141 
K-4.1 Cl-106 HCO3-30 AnGap-9
___ 05:10AM BLOOD Glucose-73 UreaN-10 Creat-0.6 Na-138 
K-3.8 Cl-108 HCO3-21* AnGap-13
___ 09:15AM BLOOD ALT-11 AST-14 LD(LDH)-161 AlkPhos-61 
Amylase-72 TotBili-<0.2
___ 05:10AM BLOOD Valproa-38*
___ 05:10AM BLOOD TOPAMAX (TOPIRAMATE)- 1.8       
___ 05:10AM PRIMIDONE  12.6  H, PHENOBARBITAL 31.7          
      
___ 05:10AM BLOOD LAMOTRIGINE- 13.4    
___________________________________

Initial cvEEG ___  :
IMPRESSION: This is an abnormal video-EEG monitoring session 
because of (1) 
rare, independent focal slowing in the right>left temporal 
regions, indicative 
of focal subcortical dysfunction in the bilateral temporal 
regions; (2) mild 
background slowing, indicative of a mild encephalopathy which is 
nonspecific 
with regards to etiology. Note is made of frequent horizontal 
gaze-evoked 
nystagmus on EEG during wakefulness. There are no pushbutton 
activations. 
There are no electrographic seizures. Compared to the prior 
day's recording, 
the record is unchanged. 
__________________________________

Further EEG reports were pending during discharge. 

  
 
Brief Hospital Course:
Ms. ___ is a ___ right-handed woman with  history of
mild intellectual disability and previously refractory 
multifocal
epilepsy since childhood, presenting with change in her baseline
mental status and episodes of falling in the setting of a
potential AED toxicity vs recurrence of her seizures. 

#Neuro:
We started her cvEEG monitoring. Initial EEG showed generalized 
background slowing with significant nystagmus. We weaned Topamax 
by day 3 of admission (because of encephalopathy and history of 
recent renal stones) and continued the rest of her AEDs. We 
obtained Levels of Topamax 1.8, Phenobarb 31.7, Lamotrigine 
13.4. 
- During admission EEG remained unchanged with no seizure 
activity or episodes of falling. No further medication 
adjustments were made. 
- We consulted our psychiatrist Dr. ___ history of 
depression and the possibility that some of these events are 
behavioral in nature. ___ reported that she was in a good 
mood an was doing well. She will continue to follow up with her 
outside psychiatrist. 
-She was evaluated by physical therapy who noted that she is 
able to walk independently and although had lost balance on 
occasions she is able compensate on her own immediately and so 
was cleared to be discharged back to her group home.  

___:
- Baseline EKG was normal 
- Was on continues telemetry and has been in sinus rhythm 

#FEN:
- Tolerated regular diet 
- Had 2 episodes of vomiting after heavy breakfast and in the 
setting of constipation. She tolerated Breakfast well on the day 
of discharge and had no further vomiting. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PrimiDONE 500 mg PO BID epilepsy 
2. LamoTRIgine 300 mg PO BID 
3. Topiramate (Topamax) 100 mg PO BID 
4. Divalproex (EXTended Release) 1000 mg PO QHS 
5. RisperiDONE 3 mg PO BID 
6. FLUoxetine 10 mg PO DAILY 

 
Discharge Medications:
1. Divalproex (EXTended Release) 1000 mg PO QHS 
2. FLUoxetine 10 mg PO DAILY 
3. LamoTRIgine 300 mg PO BID 
4. PrimiDONE 500 mg PO BID epilepsy 
5. RisperiDONE 3 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizures, focal epilepsy with complex partial seizures, not 
intractable.
Gait instability with falls.
Nausea and vomiting.

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Mental Status: Confused - sometimes.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___ were admitted to ___ for episodes of falling and change in 
your activity level concerning for being over medicated or new 
onset seizures. We started ___ on continuous brain wave 
monitoring (EEG) and continued your home medications on the 
first night . Your EGG on the first night showed slowing of your 
brain activity and signs of repetitive eye movements which we 
believe were mostly the result of the seizure medications. We 
then discontinued Topamax to see if there will be a change in 
your brainwave activity but we noted no significant change and 
we captured no seizures throughout this admission. 
___  had 2 episodes of vomiting after breakfast during your stay 
with us , we found ___ have been  constipated so we gave ___ 
some medications to help . We also asked our psychiatrist to 
talk to ___ and help with any underlying stressors or problems. 
He noted that ___ had no current stressors and were feeling well 
and will follow up with your outpatient primary psychiatrist .
 
Followup Instructions:
___